Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ceftin / Bactrim / Tetracycline / Rifampin / Levaquin in D5W / 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Fevers

 
Major Surgical or Invasive Procedure:
Bronchoscopy with transbronchial biopsy

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a PMHx s/f DMII, HTN, ESRD 
on dialysis and awaiting transplant. She has been having fevers 
chills for approximately 1 month. Cultures from ___ 
demonstrated stretococcus mitis for which she was started on IV 
vancomycin. As a result of the positive cultures and persistent 
fevers, she was admitted to ___ from ___ 
to ___ unt. CT and TTE were performed with no evidence of 
infectious source. She was discharged with 2 weeks of total 
vancomycin therapy which ended on ___. Ms. ___ has noted 
recurrent fevers (approximately 3 times weekly to ___, 
malaise, and daily chills. She also notes ___ myalgias which are 
baseline for her, and states that her vertigo is at baseline 
with daily dizziness which is positional in nature and responds 
to epley maneuver.
.  
In the ED, initial VS were 99 100 138/54 20 94% 4l, CXR was 
obtained which demonstrated mild/moderate pulmonary edema and 
left pleural effusion. Vancomycin was given for temperature of 
101. Labs were notable for anemia to 29.0. No leukocytosis. 
Blood Cultures were drawn.
.  
ROS: per HPI, denies fever, chills, night sweats, headache, 
vision changes, rhinorrhea, congestion, sore throat, cough, 
shortness of breath, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria.
 
Past Medical History:
DM (insulin dependent on insulin pump)
morbid obesity
ESRD on Dialysis
OSA on bipap ___
asthma
Diverticulosis s/p partial colectomy
COPD on home oxygen
Cholecystectomy
Paroxysmal afib in the setting of hyperkalemia

 
Social History:
___
Family History:
 Mother and sister with DM and HTN. Father died at ___ years old 
with stroke and lung cancer. Mother died at ___ with CHF.

 
Physical Exam:
VS - Temp 99.8 F, 130/55 BP , 84 HR , 18 R , 94 O2-sat % 3L  
GENERAL - obese woman in NAD, comfortable, appropriate  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD, no carotid bruits  
LUNGS - b/l crackles, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use, NC in place  
HEART - PMI non-displaced, RRR, no MRG, nl S1-S2, no JVD  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, 1+ edema, 2+ peripheral pulses (radials, DPs) 
 
SKIN - LUE graft side without tenderness or erythema  
LYMPH - no cervical, axillary, or inguinal LAD  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric, cerebellar exam intact

Upon discharge, afebrile, otherwise physical exam is unchanged.
 
Pertinent Results:
Admission labs:

___ 02:20PM BLOOD WBC-5.8 RBC-2.96* Hgb-9.4* Hct-29.0* 
MCV-98 MCH-31.6 MCHC-32.4 RDW-14.7 Plt ___
___ 02:20PM BLOOD Plt ___
___ 07:15AM BLOOD ESR-45*
___ 02:20PM BLOOD Glucose-86 UreaN-22* Creat-4.2*# Na-142 
K-4.3 Cl-102 HCO3-31 AnGap-13
___ 07:18AM BLOOD ALT-25 AST-24 LD(LDH)-265* AlkPhos-107* 
TotBili-0.4
___ 08:00AM BLOOD Calcium-8.6 Phos-3.0# Mg-1.8
___ 07:18AM BLOOD calTIBC-226* Ferritn-534* TRF-174*
___ 08:00AM BLOOD CRP-66.8*

Discharge Labs:
___ 06:20AM BLOOD WBC-9.9 RBC-2.85* Hgb-9.5* Hct-26.6* 
MCV-94 MCH-33.2* MCHC-35.5* RDW-16.0* Plt ___
___ 06:20AM BLOOD Glucose-115* UreaN-101* Creat-8.2*# 
Na-136 K-4.7 Cl-94* HCO3-24 AnGap-23*
___ 06:55AM BLOOD ALT-25 AST-21 LD(LDH)-267* AlkPhos-111* 
TotBili-0.2
___ 06:20AM BLOOD Calcium-9.2 Phos-5.8* Mg-1.9

Pertinent studies:
___ 03:30PM BLOOD HCV Ab-NEGATIVE
___ 08:00AM BLOOD C3-112 C4-24
___ 08:00AM BLOOD CRP-66.8*
___ 07:50AM BLOOD dsDNA-NEGATIVE
___ 04:40PM BLOOD ___ * Titer-1:80
___ 09:43AM BLOOD ANCA-NEGATIVE B
___ 03:30PM BLOOD HBsAb-NEGATIVE HAV Ab-POSITIVE IgM 
HAV-NEGATIVE
___ 07:00AM BLOOD HBsAg-NEGATIVE HBcAb-NEGATIVE
___ 07:18AM BLOOD calTIBC-226* Ferritn-534* TRF-174*
___ 08:00AM BLOOD %HbA1c-6.3* eAG-134*
B Glucan--negative
Galactomannan--negative

Right Upper Extremity US: IMPRESSION: Patent graft with no 
appreciable fluid collection

TEE: IMPRESSION: No valvular vegetation seen. Right ventriclar 
enlargement with preserved systolic function. At least moderate 
tricuspid regurgitation is present with severe pulmonary 
arterial sysolic hypertension.  

Lower Extremity Non-Invasive Doppler US: IMPRESSION: No evidence 
of DVT (although the right calf veins were not 
visualized); bilateral ___ cysts. 

MRI Lumbar Spine:  
IMPRESSION:  
1. Status post L3/L4 diskectomy and posterior instrumented 
fusion with no 
evidence of hardware failure, allowing for the limitations of 
this imaging 
modality.  
  
2. No evidence of paraspinal or epidural phlegmon/abscess or 
spondylodiscitis 
(on this non-enhanced study). 
  
3. Multilevel degenerative changes of the lumbar spine as 
detailed above, with 
most notable but only mild spinal canal stenosis at the L4/L5 
level. 

CT Chest: IMPRESSION: 
1. Findings concerning for multifocal infection, less likely 
hemorrhage. 
  
2. Lymphadenopathy in the mediastinum and left hilum most likely 
reactive. 
  
3. Surveillance with chest radiograph is recommended. 
  
After pulmonary findings resolve, reevaluation with chest CT is 
recommended z8-10 weeks after the current examination. 

Tagged WBC Scan: IMPRESSION: Slightly asymmetric tracer uptake 
in the proximal right upper extremity could be due to an 
infectious or inflammatory process. 

CXR (2 days s/p CT chest): Moderate cardiomegaly and enlarged 
main pulmonary artery are again noted and unchanged. Asymmetric 
multifocal opacities, larger on the left side, have minimally 
improved on the left upper lobe. There is no pneumothorax or 
large pleural effusion. 

Lung, left upper lobe, transbronchial biopsy:
Alveolar tissue with hemosiderosis and reactive pneumocyte 
hyperplasia.
The biopsy specimen consists of six tissue fragments, four of 
which contain alveolar tissue.  Several fragments show 
mild-to-moderate hemosiderosis with background reactive changes. 
 This finding is non-specific and can be seen in multiple 
clinical settings.  Clinical, radiologic, and laboratory 
correlation is necessary.
AFB and GMS stains are negative for micro-organisms.

BAL Cx:
                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

Studies pending at discharge:
None

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a past medical history 
significant for end stage renal disease on hemodialysis, type 2 
diabetes mellitus and chronic obstructive pulmonary disease 
admitted for fevers x1 month, which were ultimately felt to be 
drug fever from either Vancomycin or minoxidil. Hospital course 
was notable for a mild COPD exacerbation and steroid induced 
hyperglycemia

#Fever of unknown origin/Drug Fever: Given history of bacteremia 
with strep mitis and preceding 1 month of persistent fevers with 
normal TTE and CT abdomen, initially our efforts focused on 
finding a source persistent infection. Initial culprits were 
thought to be the dialysis graft or endocarditis. Negative TTE 
at OSH, and negative TEE in house made endocarditis unlikely. 
Unremarkable US of right upper extremity graft made this 
unlikely. Furthermore, there was only a mild increase in tracer 
uptake in the right upper extremity compared to the left upper 
extremity on tagged white blood cell scan. Bilateral lower 
extremity vascular ultrasounds were negative for DVT. Blood 
smear was negative for parasites. Hepatitis serologies were also 
negative and LFTs were normal. An MRI was also obtained given 
spinal hardware and was negative for signs of 
infection/inflammation. Due to worsening shortness of breath 
discovered in house, a CT of the chest was performed which was 
significant for ground glass opacities involving the posterior 
aspect of left upper lobe, lingula and left lower lobe. BAL and 
bronchial biopsy were significant only for ___ cfu of gram 
negative rods and respiratory flora. A transbronchial biopsy was 
non-specific without evidence of malignancy or granulomas. Six 
sets of blood cultures were obtained while Ms. ___ was off of 
antibiotics. Beta Glucan and Galactomannal were within normal 
limits.Rheumatologic labwork was relatively unimpressive with a 
normal ANCA/RF and intermediate ___ (1:80). Given absence of 
positive infectious workup, Vancomycin was discontinued, as was 
minoxidil as patient gave history fevers starting around the 
time of minoxidil initiation. After stopping these medications, 
the patient defervesced and was afebrile for >5 days suggesting 
drug fever.

#Mild exacerbation of chronic obstructive pulmonary disease:
Overall Ms. ___ respiratory symptoms and radiographic 
findings were seen as most consistent with a COPD exacerbation. 
Patient was treated with azithromycin and prednisone 40mg po 
with improvement in symptoms and patient was discharged to 
complete a one week total course. Of note, it took ~4 days for 
patient to start responding to the steroids, which was similar 
to when patient has required steroids for COPD exacerbation in 
the past. Although patient grew ___ cfu E. coli in the BAL it 
was not felt that these were pathogenic as patient responded to 
treatment with azithro and prednisone.    

#End stage renal disease on dialysis: MWF dialysis was continued 
in house. Due to hypophosphatemia, revela and phoslo were 
temporarily discontinued.

#Type II diabetes mellitus: Ms. ___ was maintained on her 
insulin pump which was closely monitored by the ___. 
Her blood sugars increased while on steroids (up to 400s), and 
basal parameters of her pump were increased while she was on 
steroids with input from ___.  She was discharged with close 
followup in ___ clinic two days post discharge and was 
made aware that her insulin requirements will fall once her 
steroids are completed.  She is aware of signs of hypoglycemia 
and was discharged with glucagon injectable as needed.

# BPPV: Meclizine was continued.

#Disposition:
Patient was discharged home with one more day of prednisone to 
take. She ___ with her Endocrinologist who will give her 
instructions on how to change her insulin as she comes off 
prednisone. She will also follow up with her PCP, outpatient 
renal and pulmonary doctors.
 
Medications on Admission:
Symbicort 120 inhalations, 160-4.5 mcg 2 puffs BID
Levetiracetam 500 BID
Renelva 800mg tablet 2 tabs TID, ___
Meclizine 25mg 1 tab by mouth three times daily
Furosemide 160mg BID ___, Furosemide 160mg 
daily other days
Vitamin B-1 100mg daily
Calcium acetate 667mg three tabs four times daily
Amlodipine 10mg daily
Benicar 60mg daily
Calcium w/ Vitamin D ___ tab by mouth dialy
Ferrous Sulfate 325mg tablet 1 tab daily
Minoxidil 2.5 mg daily
Omeprazole 20mg daily
Vitamin D3 5000 units daily
Doxazosin 4mg qhs
Simvastatin 20mg daily
Acetaminophen 650mg QID PRN
dulcolax PRN
Enema PRn
Vicodin 5mg/500mg q4h PRN
Milk of Magnesia PRN
Ventolin HFA PRN SOB
Insulin Pump
albuterol nebs q4h PRN
ipratropium nebs q4h PRN
1 nephrocap daily

 
Discharge Medications:
1. Symbicort 160-4.5 mcg/Actuation HFA Aerosol Inhaler Sig: One 
(1)  Inhalation 2 puffs BID ().  
2. levetiracetam 250 mg Tablet Sig: Three (3) Tablet PO qam on 
___.  
3. levetiracetam 500 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day): at noon and bedtime (in addition to AM dose on 
non-dialysis days).  
4. Renvela 800 mg Tablet Sig: Two (2) Tablet PO TID on 
___.  
5. meclizine 12.5 mg Tablet Sig: Two (2) Tablet PO TID (3 times 
a day).  
6. furosemide 80 mg Tablet Sig: Two (2) Tablet PO BID ON 
SAT/SUN/TUES/THURS ().  
7. furosemide 80 mg Tablet Sig: Two (2) Tablet PO ONCE DAILY 
___ ().  
8. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. calcium acetate 667 mg Tablet Sig: Three (3) Tablet PO four 
times a day.  
10. amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
11. Calcium 600 + D(3) 600 mg(1,500mg) -400 unit Tablet Sig: One 
(1) Tablet PO once a day.  
12. Benicar 20 mg Tablet Sig: Three (3) Tablet PO daily ().  
13. ferrous sulfate 300  mg (60 mg iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
14. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
15. doxazosin 4 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
16. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
17. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain/fever.  
18. bisacodyl 10 mg Suppository Sig: One (1) Suppository Rectal 
HS (at bedtime) as needed for constipation.  
19. hydrocodone-acetaminophen ___ mg Tablet Sig: One (1) 
Tablet PO Q6H (every 6 hours) as needed for pain.  
20. Milk of Magnesia 400 mg/5 mL Suspension Sig: 400 mg  PO 
every four (4) hours as needed for nausea.  
21. insulin pump cartridge     Cartridge Sig: use as directed by 
Diabetes Clinic  Subcutaneous continuous.  
22. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).
Disp:*90 Capsule(s)* Refills:*0*
23. senna 8.6 mg Tablet Sig: ___ Tablets PO BID (2 times a day) 
as needed for constipation.
Disp:*90 Tablet(s)* Refills:*0*
24. dextromethorphan-guaifenesin ___ mg/5 mL Syrup Sig: Five 
(5) ML PO Q6H (every 6 hours) as needed for cough.
Disp:*200 ML(s)* Refills:*0*
25. B complex-vitamin C-folic acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
26. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) nebulization Inhalation every four (4) 
hours as needed for dyspnea, wheezing.
Disp:*90 nebulizations* Refills:*0*
27. ipratropium bromide 0.02 % Solution Sig: One (1) 
nebulization Inhalation Q6H (every 6 hours) as needed for 
shortness of breath or wheezing.
Disp:*90 nebulizations* Refills:*0*
28. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1)  
PO BID (2 times a day).
Disp:*90 packets* Refills:*2*
29. Glucagon Emergency 1 mg Kit Sig: One (1)  Injection three 
times a day as needed for hypoglycemia.
Disp:*30 kits* Refills:*0*
30. prednisone 20 mg Tablet Sig: Two (2) Tablet PO once a day 
for 1 doses.
Disp:*2 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Diabetes Mellitus II
End Stage Renal Disease
Obstructive Sleep Apnea
Obesity
Asthma
Chronic Obstructive Pulmonary Disease
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___,
   You were admitted with fever of unknown origin. Your fever is 
likely due to the drug minoxidil or from the antibiotic 
vancomycin. You underwent workup with tagged white blood cell 
scan with was positive only for slightly increased uptake in the 
right upper extremity, however ultrasound of your graft does not 
indicate that it is infected. While here you also developed a 
COPD exacerbation, and were found to have some infiltrates on CT 
of your chest. A bronchoscopy was performed without signficant 
growth. A small amount of bacteria grew on culture which your 
outpatient doctors ___ follow up ___ final results 
regarding these bacteria are still pending. In light of your 
overall clinical status, a pneumonia appears unlikely.

The following changes were made to your medications:
Please START prednisone 40mg daily for 1 more day.
START colace scheduled daily, senna as needed, and miralax daily 
for your constipation.
START guaifenasin for your cough
STOP minoxidil as this may have caused your fevers
STOP vancomycin as this may have caused your fevers
- Your Insulin doses on the insulin pump have been changed and 
will need to be changed further at your Endocrinology 
appointment tomorrow.  ** Please be sure to make it to your 
Endocrinology appointment this week. **
- You will also be prescribed glucagon injectable to be used as 
needed for low blood sugars.
 
Followup Instructions:
___